US07968535B2
9-Methoxy-7,12-dihydro-pyrido[3′,2′:2,3]azepino[4,5-b]indole-6(5H)-one (10a)
5H-Pyrido[3,2-b]azepine-6,9(7H,8H)-dione (484 mg; 2.74 mmol), (4-methoxyphenyl)hydrazine hydrochloride (527 mg, 3.02 mmol), and sodium acetate (242 mg; 3.02 mmol) were suspended in glacial acetic acid (30 mL) and stirred for 30 min. at 70° C. After cooling to room temperature, the mixture was poured into a 5% aqueous sodium acetate solution. The precipitate, consisting of the corresponding phenyl hydrazone, was filtered off with suction, washed successively with 5% aqueous sodium acetate solution and water and was then refluxed 4 h in 70 mL ethanol. After cooling, 206 mg (27%) of a brown powder precipitated, m.p. >330° C.; IR (KBr): 3269 cm−1 (NH), 1669 cm−1 (C═O); 1H-NMR (d6-DMSO, 400 MHz): δ (ppm)=3.66 (s, 2H, azepine-CH2), 3.81 (s, 3H, OCH3), 6.84 (dd, 1H, 8.8/2.4 Hz, arom. H), 7.21 (d, 1H, 2.3 Hz, arom. H), 7.35-7.40 (m, 2H, arom. H), 7.60 (dd, 1H, 8.2/1.4 Hz, arom. H), 8.46 (dd, 1H, 4.5/1.4 Hz, arom. H), 10.20 (s, 1H, NH), 11.54 (s, 1H, NH); 13C-NMR (DMSO-d6, 100.6 MHz): δ (ppm)=55.4 (OCH3), 31.8 (azepine-CH2), 99.6, 112.7, 113.6, 122.3, 129.3, 144.2 (tert. arom. C-atoms), 108.7, 126.6, 131.9, 132.7, 133.0, 140.6, 153.5 (quat. arom. C-atoms), 171.2 (C═O). purity: 99.8% (HPLC, ts=3.57 min, acetonitrile/water: 25/75); EI/HRMS for C16H13N3O2 (279.30) calculated: 279.10077. found: 279.10010.

reactant | 5H-Pyrido[3,2-b]azepine-6,9(7H,8H)-dione | 2.74 mmol, 484 mg | N1=CC=CC=2NC(CCC(C21)=O)=O | C9H8N2O2
reactant | (4-methoxyphenyl)hydrazine hydrochloride | 3.02 mmol, 527 mg | Cl.COC1=CC=C(C=C1)NN
reactant | sodium acetate | 3.02 mmol, 242 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 9-Methoxy-7,12-dihydro-pyrido[3′,2′:2,3]azepino[4,5-b]indole-6(5H)-one | COC=1C=C2C3=C(NC2=CC1)C1=C(NC(C3)=O)C=CC=N1 | C16H13N3O2
